US09422263B2
rac-4-(1H-Indazol-5-yl)-2-methyl-6-(trifluoromethyl)-1,4-dihydropyridine-3,5-dicarbonitrile
A mixture of 250 mg (1.71 mmol) 1H-indazole-5-carbaldehyde, 180 mg (1.71 mmol) sodium 1-cyanoprop-1-en-2-olate and 931 mg (6.84 mmol) 3-amino-4,4,4-trifluorobut-2-enenitrile [preparation: A. W. Lutz, U.S. Pat. No. 3,635,977; C. G. Krespan, J. Org. Chem. 34, 42 (1969)] in 1-pentanol (2.5 ml) and acetic acid (0.15 ml) was heated to 105° C. overnight. After cooling, the reaction mixture was diluted with THF and directly purified by preparative RP-HPLC (acetonitrile/water+0.1% TFA gradient) yielding 131 mg (23% of th.) of the racemic title compound.

reactant | 1H-indazole-5-carbaldehyde | 1.71 mmol, 250 mg | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | sodium 1-cyanoprop-1-en-2-olate | 1.71 mmol, 180 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 3-amino-4,4,4-trifluorobut-2-enenitrile | 6.84 mmol, 931 mg | NC(=CC#N)C(F)(F)F | C4H3F3N2
reactant | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
solvent | 1-pentanol | 2.5 ml | C(CCCC)O | C5H12O
solvent | THF | C1CCOC1 | C4H8O
product | rac-4-(1H-Indazol-5-yl)-2-methyl-6-(trifluoromethyl)-1,4-dihydropyridine-3,5-dicarbonitrile | N1N=CC2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C(F)(F)F)C)C#N | C16H10F3N5
